** Generated for: hspiceD
** Generated on: Apr 29 13:44:10 2025
** Design library name: OpenRAM_cells
** Design cell name: ADO_WLDRV_REG_HK
** Design view name: schematic


.TEMP 25
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
+    HIER_DELIM=0
.LIB "/lscratch/TSMC28HPC+/TSMC28nm/models/hspice/toplevel.l" TOP_TT

** Library name: tcbn28hpcplusbwp35p140
** Cell name: BUFFD4BWP35P140
** View name: schematic
.subckt BUFFD4BWP35P140 i z vdd vss
xmm0 z net9 vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm0_2 z net9 vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm0_3 z net9 vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm0_4 z net9 vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm5 net9 i vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm5_2 net9 i vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm1 z net9 vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm1_2 z net9 vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm1_3 z net9 vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm1_4 z net9 vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm4 net9 i vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm4_2 net9 i vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
.ends BUFFD4BWP35P140
** End of subcircuit definition.

** Library name: tcbn28hpcplusbwp35p140
** Cell name: LHQD1BWP35P140
** View name: schematic
.subckt LHQD1BWP35P140 d e q vdd vss
xmm9 clkbb clkb vss vss nch_mac l=35e-9 w=140e-9 multi=1 nf=1 sd=100e-9 ad=10.5e-15 as=10.5e-15 pd=430e-9 ps=430e-9 nrd=2.677526 nrs=2.677526 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm8 net076 clkb qf_x vss nch_mac l=35e-9 w=155e-9 multi=1 nf=1 sd=100e-9 ad=11.625e-15 as=11.625e-15 pd=460e-9 ps=460e-9 nrd=2.715364 nrs=2.715364 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm0 clkb e vss vss nch_mac l=35e-9 w=140e-9 multi=1 nf=1 sd=100e-9 ad=10.5e-15 as=10.5e-15 pd=430e-9 ps=430e-9 nrd=2.677526 nrs=2.677526 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm4 qf_x clkbb net088 vss nch_mac l=35e-9 w=155e-9 multi=1 nf=1 sd=100e-9 ad=11.625e-15 as=11.625e-15 pd=460e-9 ps=460e-9 nrd=2.715364 nrs=2.715364 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm5 net088 d vss vss nch_mac l=35e-9 w=155e-9 multi=1 nf=1 sd=100e-9 ad=11.625e-15 as=11.625e-15 pd=460e-9 ps=460e-9 nrd=2.715364 nrs=2.715364 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm11 qf qf_x vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm12 q qf_x vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm19 vss qf net076 vss nch_mac l=35e-9 w=155e-9 multi=1 nf=1 sd=100e-9 ad=11.625e-15 as=11.625e-15 pd=460e-9 ps=460e-9 nrd=2.715364 nrs=2.715364 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm6 net071 clkbb qf_x vdd pch_mac l=35e-9 w=230e-9 multi=1 nf=1 sd=100e-9 ad=17.25e-15 as=17.25e-15 pd=610e-9 ps=610e-9 nrd=756.521e-3 nrs=756.521e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm7 clkbb clkb vdd vdd pch_mac l=35e-9 w=170e-9 multi=1 nf=1 sd=100e-9 ad=12.75e-15 as=12.75e-15 pd=490e-9 ps=490e-9 nrd=1.62222 nrs=1.62222 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm1 clkb e vdd vdd pch_mac l=35e-9 w=170e-9 multi=1 nf=1 sd=100e-9 ad=12.75e-15 as=12.75e-15 pd=490e-9 ps=490e-9 nrd=1.62222 nrs=1.62222 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm2 net052 d vdd vdd pch_mac l=35e-9 w=230e-9 multi=1 nf=1 sd=100e-9 ad=17.25e-15 as=17.25e-15 pd=610e-9 ps=610e-9 nrd=756.521e-3 nrs=756.521e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm3 qf_x clkb net052 vdd pch_mac l=35e-9 w=230e-9 multi=1 nf=1 sd=100e-9 ad=17.25e-15 as=17.25e-15 pd=610e-9 ps=610e-9 nrd=756.521e-3 nrs=756.521e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm10 qf qf_x vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm13 q qf_x vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm16 vdd qf net071 vdd pch_mac l=35e-9 w=230e-9 multi=1 nf=1 sd=100e-9 ad=17.25e-15 as=17.25e-15 pd=610e-9 ps=610e-9 nrd=756.521e-3 nrs=756.521e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
.ends LHQD1BWP35P140
** End of subcircuit definition.

** Library name: tcbn28hpcplusbwp35p140
** Cell name: LHCNDQD1BWP35P140
** View name: schematic
.subckt LHCNDQD1BWP35P140 d e cdn q vdd vss
xmm21 clkb e vss vss nch_mac l=35e-9 w=140e-9 multi=1 nf=1 sd=100e-9 ad=10.5e-15 as=10.5e-15 pd=430e-9 ps=430e-9 nrd=2.677526 nrs=2.677526 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm20 net97 cdn vss vss nch_mac l=35e-9 w=100e-9 multi=1 nf=1 sd=100e-9 ad=7.5e-15 as=7.5e-15 pd=350e-9 ps=350e-9 nrd=2.576626 nrs=2.576626 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm19 net97 qf net104 vss nch_mac l=35e-9 w=100e-9 multi=1 nf=1 sd=100e-9 ad=7.5e-15 as=7.5e-15 pd=350e-9 ps=350e-9 nrd=2.576626 nrs=2.576626 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm18 qf_x clkb net104 vss nch_mac l=35e-9 w=100e-9 multi=1 nf=1 sd=100e-9 ad=7.5e-15 as=7.5e-15 pd=350e-9 ps=350e-9 nrd=2.576626 nrs=2.576626 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm12 q net73 vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm11 net73 qf vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm9 qf qf_x vss vss nch_mac l=35e-9 w=280e-9 multi=1 nf=1 sd=100e-9 ad=21e-15 as=21e-15 pd=710e-9 ps=710e-9 nrd=1.382006 nrs=1.382006 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm7 net117 cdn vss vss nch_mac l=35e-9 w=155e-9 multi=1 nf=1 sd=100e-9 ad=11.625e-15 as=11.625e-15 pd=460e-9 ps=460e-9 nrd=2.715364 nrs=2.715364 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm5 net121 d net117 vss nch_mac l=35e-9 w=155e-9 multi=1 nf=1 sd=100e-9 ad=11.625e-15 as=11.625e-15 pd=460e-9 ps=460e-9 nrd=2.715364 nrs=2.715364 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm4 qf_x clkbb net121 vss nch_mac l=35e-9 w=155e-9 multi=1 nf=1 sd=100e-9 ad=11.625e-15 as=11.625e-15 pd=460e-9 ps=460e-9 nrd=2.715364 nrs=2.715364 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm0 clkbb clkb vss vss nch_mac l=35e-9 w=140e-9 multi=1 nf=1 sd=100e-9 ad=10.5e-15 as=10.5e-15 pd=430e-9 ps=430e-9 nrd=2.677526 nrs=2.677526 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm17 qf_x clkbb net68 vdd pch_mac l=35e-9 w=100e-9 multi=1 nf=1 sd=100e-9 ad=7.5e-15 as=7.5e-15 pd=350e-9 ps=350e-9 nrd=1.466664 nrs=1.466664 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm22 clkb e vdd vdd pch_mac l=35e-9 w=170e-9 multi=1 nf=1 sd=100e-9 ad=12.75e-15 as=12.75e-15 pd=490e-9 ps=490e-9 nrd=1.62222 nrs=1.62222 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm2 net53 d vdd vdd pch_mac l=35e-9 w=250e-9 multi=1 nf=1 sd=100e-9 ad=18.75e-15 as=18.75e-15 pd=650e-9 ps=650e-9 nrd=777.777e-3 nrs=777.777e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm1 clkbb clkb vdd vdd pch_mac l=35e-9 w=170e-9 multi=1 nf=1 sd=100e-9 ad=12.75e-15 as=12.75e-15 pd=490e-9 ps=490e-9 nrd=1.62222 nrs=1.62222 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm16 vdd qf net68 vdd pch_mac l=35e-9 w=100e-9 multi=1 nf=1 sd=100e-9 ad=7.5e-15 as=7.5e-15 pd=350e-9 ps=350e-9 nrd=1.466664 nrs=1.466664 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm13 q net73 vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm10 net73 qf vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm8 qf qf_x vdd vdd pch_mac l=35e-9 w=340e-9 multi=1 nf=1 sd=100e-9 ad=25.5e-15 as=25.5e-15 pd=830e-9 ps=830e-9 nrd=500.473e-3 nrs=500.473e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm6 qf_x cdn vdd vdd pch_mac l=35e-9 w=250e-9 multi=1 nf=1 sd=100e-9 ad=18.75e-15 as=18.75e-15 pd=650e-9 ps=650e-9 nrd=777.777e-3 nrs=777.777e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xmm3 qf_x clkb net53 vdd pch_mac l=35e-9 w=250e-9 multi=1 nf=1 sd=100e-9 ad=18.75e-15 as=18.75e-15 pd=650e-9 ps=650e-9 nrd=777.777e-3 nrs=777.777e-3 sa=75e-9 sb=75e-9 sa1=75e-9 sa2=75e-9 sa3=75e-9 sa4=75e-9 sb1=75e-9 sb2=75e-9 sb3=75e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=91.9776e-9 sapb=114.444e-9 spba=115.996e-9 spba1=117.547e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
.ends LHCNDQD1BWP35P140
** End of subcircuit definition.

** Library name: OpenRAM_cells
** Cell name: ADO_WLDRV_REG_HK
** View name: schematic
xi4 net1 wl vdd vss BUFFD4BWP35P140
xi3 net1 ck1 net2 vdd vss LHQD1BWP35P140
xi1 di ck1 net3 vdd vss LHQD1BWP35P140
xi2 net2 ck2 rstb dout vdd vss LHCNDQD1BWP35P140
xi0 net3 ck2 rstb net1 vdd vss LHCNDQD1BWP35P140
.END
